US04022800
The solution of 7.8 g of 3-[4-chloro-2-(2-chloro-αmethoxy-benzyl)-phenyl]-2-methylpyrazole-4-carboxylic acid in 75 ml of methylene chloride and 6.7 diisopropyl ethylamine is stirred in an ice bath and 4.7 ml of thionyl chloride are added. The mixture is refluxed for 40 minutes, cooled and washed with ice-water. The organic layer is dried, evaporated and the residue taken up in 65 ml of tetrahydrofuran and the solution saturated with ammonia. After stirring at 25° for 16 hours, the mixture is diluted in diethyl ether, washed with water and brine, dried and evaporated. The residue is dissolved in 300 ml of diethyl ether and the solution refluxed for 16 hours with 2 g of lithium aluminum hydride. After destroying the excess reagent and filtering off the precipitate, the filtrate is washed with diluted hydrochloric acid. The acidic layer is basified with aqueous sodium hydroxide and extracted with methylene chloride. The extract is dried, evaporated, the residue taken up in ethyl acetate and the solution acidified with hydrogen chloride, to yield the 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-4-aminomethyl-2-methylpyrazole hydrochloride melting at 260°-262°.

reactant | 3-[4-chloro-2-(2-chloro-αmethoxy-benzyl)-phenyl]-2-methylpyrazole-4-carboxylic acid | 7.8 g | ClC1=CC(=C(C=C1)C=1N(N=CC1C(=O)O)C)C(C1=C(C=CC=C1)Cl)OC | C19H16Cl2N2O3
reactant | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thionyl chloride | 4.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-4-aminomethyl-2-methylpyrazole hydrochloride | Cl.ClC1=CC(=C(C=C1)C=1N(N=CC1CN)C)C(C1=C(C=CC=C1)Cl)OC | InChI=1S/C19H19Cl2N3O.ClH/c1-24-18(12(10-22)11-23-24)14-8-7-13(20)9-16(14)19(25-2)15-5-3-4-6-17(15)21;/h3-9,11,19H,10,22H2,1-2H3;1H
